US05362906
Step 7: Diethyl [(E,E)-4,8,12-trimethyl-3,7,11-tridecatrienyl]thiomethylphosphonate
Solid sodium hydroxide (0.14 g, 3.5 mmol) was added to a stirred solution of diethyl acetylthiomethylphosphonate (0.59 g, 2.5 mmol) in ethanol (10 mL). The resulting mixture was stirred at room temperature under nitrogen until all the sodium hydroxide dissolved, then added a solution of (E,E)-4,8,12-trimethyl-3,7,11-tridecatrienyl iodide (0.84 g, 2.4 mmol) in ethanol (2 mL). The resulting mixture was stirred at room temperature under nitrogen overnight. The reaction mixture was poured into cold water and extracted with ether. The ethereal extract was washed with water, dried, filtered and evaporated to give a residue, which was purified by flash chromatography on a silica gel column. Elution of the column with methylene:acetate (10:1, v:v) afforded the title compound (0.91 g, 2.26 mmol, 94%) as a colorless oil.

reactant | sodium hydroxide | 3.5 mmol, 0.14 g | [OH-].[Na+]
reactant | diethyl acetylthiomethylphosphonate | 2.5 mmol, 0.59 g | C(C)(=O)SCP(OCC)(OCC)=O | C7H15O4PS
reactant | (E,E)-4,8,12-trimethyl-3,7,11-tridecatrienyl iodide | 2.4 mmol, 0.84 g | C\C(=C/CCI)\CC\C=C(\CCC=C(C)C)/C | C16H27I
reactant | water | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | Diethyl [(E,E)-4,8,12-trimethyl-3,7,11-tridecatrienyl]thiomethylphosphonate | 2.26 mmol, 0.91 g, 94% | C\C(=C/CCSCP(OCC)(OCC)=O)\CC\C=C(\CCC=C(C)C)/C | C21H39O3PS
